US07368586B2
Preparation of dimethyl 2-{[dimethoxy(methyl)silyl]methylcarbamoyl}malonate
A stirred mixture conditioned at a temperature of 30° C. of 6.74 g of dimethyl malonate and 90.0 mg of sodium methoxide (30% strength solution in methanol) was admixed dropwise with 8.06 g of (isocyanatomethyl)-dimethoxy(methyl)silane and the clear solution was stirred for 90 min. This gave dimethyl 2-{[dimethoxy(methyl)silyl]methylcarbamoyl}malonate after recrystallization from isohexane in 56% yield with a purity of >95% (analysis by 1H NMR).

reactant | dimethyl malonate | 6.74 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium methoxide | 90.0 mg | C[O-].[Na+]
reactant | (isocyanatomethyl)-dimethoxy(methyl)silane | 8.06 g | N(=C=O)C[Si](C)(OC)OC | C5H11NO3Si
product | dimethyl 2-{[dimethoxy(methyl)silyl]methylcarbamoyl}malonate | 56% yield | CO[Si](C)(OC)CNC(=O)C(C(=O)OC)C(=O)OC | C10H19NO7Si
